* QMX Filters

* QMX LPF
.subckt qmxlpf nIN nOUT l1=0 l2=0 c1=0 c2=0 c3=0 c4=0
C1 nIN 0 {c1}
L1 N001 nIN {l1}
C2 N001 0 {c2}
C3 nOUT 0 {c3}
C4 nOUT N001 {c4}
L2 nOUT N001 {l2}
.ends

* QMX BPF
.subckt qmxbpf nIN nOUT c1=0 l1=0
C1 nIN x {c1}
L1 x nOUT {l1}
.ends